US06939885B2
Synthesis of 4-tert-butyl-N-[4-chloro-2-(2-chloro-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 133 mg of (2-Amino-5-chloro-phenyl)-(2-chloro-pyridin-4-yl)-methanone and 116 mg of 4-tert-Butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.26 (s, 9H), 7.18 (dd, 5.2 Hz, 1.6 Hz), 7.25 (m, 1H), 7.32 (m, 1H), 7.41 (d, 2H, J=6.4 Hz), 7.54 (dd, 1H, J=9.2 Hz, 2.4 Hz), 7.67 (m, 2H), 7.77 (d, 1H, J-8.8 Hz), 8.55 (d, 1H, J=5.2 Hz), 10.09 (s, 1H). MS: m/z 463.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(2-chloro-pyridin-4-yl)-methanone | 133 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)Cl | C12H8Cl2N2O
reactant | 4-tert-Butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-butyl-N-[4-chloro-2-(2-chloro-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)Cl | C22H20Cl2N2O3S
